US07728014B2
(E)-3-(Dimethylamino)-1-phenyl-2-p-tolylprop-2-en-1-one (Compound 113).
A solution of 1-phenyl-2-p-tolylethanone (2 g, 9.5 mmol) and dimethylformamide dimethylacetal (4.5 g, 38.1 mmol) in DMF (30 ml) was heated at 75° C. for 24 hours. Solvents were removed under high vacuum to obtain the title compound as a yellow oil, which was used directly in the next step without purification.

reactant | 1-phenyl-2-p-tolylethanone | 9.5 mmol, 2 g | C1(=CC=CC=C1)C(CC1=CC=C(C=C1)C)=O | C15H14O
reactant | dimethylformamide dimethylacetal | 38.1 mmol, 4.5 g | COC(N(C)C)OC | C5H13NO2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | (E)-3-(Dimethylamino)-1-phenyl-2-p-tolylprop-2-en-1-one | CN(/C=C(/C(=O)C1=CC=CC=C1)\C1=CC=C(C=C1)C)C | C18H19NO
